US06730682B2
8-Bromo-2-hydroxypyrido[3,2-d]pyrimidine-7-carboxylic Acid (N.4)
A suspension of ethyl 8-bromo-2-hydroxypyrido[3,2-d]pyrimidine-7-carboxylate (Preparation 4, 1.49 g) and 10% aqueous sodium hydroxide solution (40 mL) is heated at reflux until ester is consumed. The mixture is allowed to cool to room temperature and is made acidic with 50% aqueous HCl solution. The resulting precipitate is collected and dried.

reactant | ethyl 8-bromo-2-hydroxypyrido[3,2-d]pyrimidine-7-carboxylate | 1.49 g | BrC1=C(C=NC2=C1N=C(N=C2)O)C(=O)OCC | C10H8BrN3O3
solvent | sodium hydroxide | 40 mL | [OH-].[Na+]
product | 8-Bromo-2-hydroxypyrido[3,2-d]pyrimidine-7-carboxylic Acid | BrC1=C(C=NC2=C1N=C(N=C2)O)C(=O)O | C8H4BrN3O3
